US05059597
c) 6-Benzyl-1-methyl-octahydropyrrolo[3,4-b]pyridine
19.2 g (0.08 mol) of crude 6-benzyl-1-methyl-5,7-dioxooctahydropyrrolo[3,4-b]pyridine are reduced with 6.1 g (0.16 mol) of lithium aluminum hydride in absolute tetrahydrofuran in accordance with the working instructions of Example 1c.

reactant | 6-benzyl-1-methyl-5,7-dioxooctahydropyrrolo[3,4-b]pyridine | 0.08 mol, 19.2 g | C(C1=CC=CC=C1)N1C(C2N(CCCC2C1=O)C)=O | C15H18N2O2
reactant | lithium aluminum hydride | 0.16 mol, 6.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-Benzyl-1-methyl-octahydropyrrolo[3,4-b]pyridine | C(C1=CC=CC=C1)N1CC2N(CCCC2C1)C | C15H22N2
